US04775671
A mixture of 9.77 g (39 mmol) of 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, 40 ml of N,N-dimethylformamide and 6.48 g (40 mmol) of N,N'-carbonyldiimidazole is stirred at 100° for 1 hour. 4.01 g (40 mmol) of cyclopropanecarboxamidoxime are subsequently added thereto and the mixture is stirred at 100° for a further 4 hours. The mixture is then evaporated and the residue is heated to 115° for 4 hours with 100 ml of acetic acid. The solution is evaporated to dryness and the residue is partitioned between methylene chloride and saturated sodium bicarbonate solution. The organic phase is separated, dried over magnesium sulphate and evaporated. By recrystallization from methylene chloride and ethyl acetate there is obtained 3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 202°-203°.

reactant | 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | 39 mmol, 9.77 g | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)O | C13H11N3O3
reactant | cyclopropanecarboxamidoxime | 40 mmol, 4.01 g | C1(CC1)C(N)=NO | C4H8N2O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | C1(CC1)C1=NOC(=N1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C17H15N5O2
